US08202868B2
2-tert-Butyl-4-cyclobutyl-6-{4-[3-(pyrimidin-4-yloxy)-propyl]-piperazin-1-yl}-pyrimidine
0.2 g of 4-hydroxy-pyrimidine (2.08 mmol) were dissolved in 15 ml of dimethylformamide. After addition of 0.58 g of potassium carbonate (4.16 mmol) and 0.73 g of 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclobutyl-pyrimidine (2.08 mmol), the mixture was stirred at 90° C. for 3 h. The dimethylformamide was removed under reduced pressure and the resulting residue was partitioned between 40 ml of ethyl acetate and 20 ml of water. The aqueous phase was re-extracted with ethyl acetate, the organic layers were combined, dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was purified by chromatography on silica gel with ethyl acetate-methanol (2-10%). Fractions containing the product were combined. The solvent was evaporated. The product crystallized upon standing (yield: 0.2 g).

reactant | 4-hydroxy-pyrimidine | 2.08 mmol, 0.2 g | OC1=NC=NC=C1 | C4H4N2O
reactant | potassium carbonate | 4.16 mmol, 0.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclobutyl-pyrimidine | 2.08 mmol, 0.73 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C1CCC1 | C19H31ClN4
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-tert-Butyl-4-cyclobutyl-6-{4-[3-(pyrimidin-4-yloxy)-propyl]-piperazin-1-yl}-pyrimidine | C(C)(C)(C)C1=NC(=CC(=N1)C1CCC1)N1CCN(CC1)CCCOC1=NC=NC=C1 | C23H34N6O
